US06426345B1
A mixture of 2-benzyl-4-[3-[3-(2-nitrophenyl)ureido]phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (120 mg) and 10% palladium on carbon (40 mg) in methanol (2 ml) and 1,4-dioxane (2 ml) was stirred under hydrogen (3 atm) at room temperature for 4 hours. The catalyst was removed by filtration and the solvent was evaporated. The residue was crystallized from methanol to give 4-[3-[3-(2-aminophenyl)ureido]phenyl]-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine (97 mg).

reactant | 2-benzyl-4-[3-[3-(2-nitrophenyl)ureido]phenyl]-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 120 mg | C(C1=CC=CC=C1)C1=NC2=C(N(C1=O)C1=CC(=CC=C1)NC(=O)NC1=C(C=CC=C1)[N+](=O)[O-])N=CC=C2 | C27H20N6O4
catalyst | palladium on carbon | 40 mg | [Pd] | Pd
solvent | methanol | 2 ml | CO | CH4O
solvent | 1,4-dioxane | 2 ml | O1CCOCC1 | C4H8O2
product | 4-[3-[3-(2-aminophenyl)ureido]phenyl]-2-benzyl-3-oxo-3,4-dihydropyrido[2,3-b]pyrazine | 97 mg | NC1=C(C=CC=C1)NC(NC=1C=C(C=CC1)N1C2=C(N=C(C1=O)CC1=CC=CC=C1)C=CC=N2)=O | C27H22N6O2
